US08017793B2
Into 5.90 g of 35% hydrogen peroxide solution (60.0 mmol), 720 mg of disodium phosphate dodecahydrate (2.0 mmol) and 165 mg of sodium tungstate dihydrate (0.5 mmol) were dissolved to prepare a mixed reagent (pH 6.5). After 7.3 g of 2-ethyl-1,3-hexanediol (50.0 mmol) was dissolved into 100 mL of N,N-dimethylacetamide, the resultant was heated to 90° C., and the above mixed reagent was added. After the reaction was continued at 90° C. for four hours, 100 mL of toluene and 100 g of 10% brine were added for liquid separation. The aqueous layer was extracted three times with 100 mL of toluene, and all the organic layers were combined and concentrated under reduced pressure. The concentrated liquid was separated and purified by silica gel chromatography (developing solvent hexane:ethyl acetate=3:2) to obtain oily 2-ethyl-1-hydroxy-3-hexanone. The yield was 5.33 g (73%).

reactant | hydrogen peroxide | 60.0 mmol, 5.90 g | OO | H2O2
reactant | disodium phosphate dodecahydrate | 2.0 mmol, 720 mg | O.O.O.O.O.O.O.O.O.O.O.O.P(=O)([O-])([O-])O.[Na+].[Na+]
reactant | 2-ethyl-1,3-hexanediol | 50.0 mmol, 7.3 g | C(C)C(CO)C(CCC)O | C8H18O2
reactant | N,N-dimethylacetamide | 100 mL | CN(C(C)=O)C | C4H9NO
solvent | brine | 100 g | [Cl-].[Na+].O
catalyst | sodium tungstate dihydrate | 0.5 mmol, 165 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-ethyl-1-hydroxy-3-hexanone | C(C)C(CO)C(CCC)=O | C8H16O2
